US06972340B2
methyl 2-(4-{[4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-6-hydroxy-4-methoxybenzoate
A mixture of methyl 2-(4-{[4-{{2-[(benzhydryloxy)carbonyl]phenyl}[(benzyloxy)(oxo)acetyl]amino}-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-6-hydroxy-4-methoxybenzoate and 10% Pd—C (0.1 g) in methanol (25 mL) was stirred under an atmosphere of hydrogen at ambient temperature for 16 hours. The mixture was filtered through celite and the filtrate concentrated under reduced pressure to provide the titled compound. MS (ESI(+)) m/e 682 (M+H)+; 1H NMR (500 MHz, DMSO-d6) 10.66, 10.67 (s, s, 1H), 8.03-7.96 (m, 1H), 7.90-7.83 (m, 1H), 7.63-7.15 (m, 8H), 6.07-6.05 (m, 2H), 4.18-4.10 (m, 1H), 3.95-3.89 (m, 2H), 3.73 (s, 3H), 3.43 (s, 3H), 3.15-3.02 (m, 2H), 2.95-2.86 (m, 1H), 2.78-2.68 (m, 1H), 1.68-1.56 (m, 2H), 1.54-1.47 (m, 2H).

reactant | methyl 2-(4-{[4-{{2-[(benzhydryloxy)carbonyl]phenyl}[(benzyloxy)(oxo)acetyl]amino}-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-6-hydroxy-4-methoxybenzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)N(C1=CC=C(C[C@H](NC(=O)OC)C(=O)NCCCCOC2=C(C(=O)OC)C(=CC(=C2)OC)O)C=C1)C(C(=O)OCC1=CC=CC=C1)=O | C53H51N3O13
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | methyl 2-(4-{[4-[(carboxycarbonyl)(2-carboxyphenyl)amino]-N-(methoxycarbonyl)-L-phenylalanyl]amino}butoxy)-6-hydroxy-4-methoxybenzoate | C(=O)(O)C(=O)N(C1=CC=C(C[C@H](NC(=O)OC)C(=O)NCCCCOC2=C(C(=O)OC)C(=CC(=C2)OC)O)C=C1)C1=C(C=CC=C1)C(=O)O | C33H35N3O13
